US05455174
Four grams of the immobilized Lipase PS prepared by the same procedure as in Example 2 was added to 40 ml of a dry t-butanol solution containing 4 g of ascorbic acid and 3 g of vinyl acetate. The reaction was continued for 20 hours at 50° C. The reaction mixture was filtered and concentrated to yield 4.8 g of a crude ascorbic acid-6-acetate. Recrystallization from acetone-benzene gave a crystal with purity of 93%. The water content of the reaction system was 650 ppm.

reactant | ascorbic acid | 4 g | O=C1C(O)=C(O)[C@H](O1)[C@@H](O)CO | C6H8O6
reactant | vinyl acetate | 3 g | C(C)(=O)OC=C | C4H6O2
solvent | t-butanol | 40 ml | C(C)(C)(C)O | C4H10O
product | ascorbic acid-6-acetate | 4.8 g | C(C)(=O)OC[C@@H]([C@@H]1C(=C(C(=O)O1)O)O)O | C8H10O7
